US08278319B2
Stage 3: 2-((1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methoxy)acetic acid (S1)
tert-Butyl 2-((1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methoxy)acetate (1 eq) was dissolved in dichloromethane (10 ml/mmol), cooled, and trifluoroacetic acid (13 eq) was added slowly at room temperature. After stirring for 2 h at room temperature, the reaction mixture was concentrated to small volume under vacuum and dried. The crude product was used in the next stage with no further purification. Yield: quantitative

reactant | tert-Butyl 2-((1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methoxy)acetate | 1 eq | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)COCC(=O)OC(C)(C)C)C | C21H33NO6S
reactant | trifluoroacetic acid | 13 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-((1-(4-Methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methoxy)acetic acid | Yield: quantitative | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)COCC(=O)O)C | C17H25NO6S
